US06660744B1
To a mixture of 3-(4-phenoxyphenyl)-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.05 g, 0.00013 mol) and potassium carbonate (0.036 g, 0.00026 mol) in anhydrous N,N-dimethylformamide (3 mL) was added chloroacetylchloride (0.028 g, 0.00026 mol) at room temperature. The mixture was stirred for 10 min. before ethanolamine (0.078 mL, 0.0013 mol) was added. The mixture was stirred at room temperature for 18 hours. The solvent was removed under reduced pressure. The residue was dissolved in dichloromethane (3 mL) and washed with water (2 mL). The solvent was removed under reduced pressure. The residue was purified by RP-HPLC (Hypersilprep HS C18, 8 μm, 250×21.1 mm; 5%-100% over 35 min with 0.1 M ammonium acetate, 21 mL/min) to yield 1-{4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidino}-2-[(2-hydroxyethyl)amino]-1-ethanone (0.022 g, 0.00005 mol).

reactant | 3-(4-phenoxyphenyl)-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00013 mol, 0.05 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C2CCNCC2 | C22H22N6O
reactant | potassium carbonate | 0.00026 mol, 0.036 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetylchloride | 0.00026 mol, 0.028 g | ClCC(=O)Cl | C2H2Cl2O
reactant | ethanolamine | 0.0013 mol, 0.078 mL | C(O)CN | C2H7NO
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 1-{4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidino}-2-[(2-hydroxyethyl)amino]-1-ethanone | 0.00005 mol, 0.022 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CCN(CC2)C(CNCCO)=O | C26H29N7O3
